US07897607B2
1-(2,4-Dimethylphenyl)-5,6-dihydro-1H-pyrrolo[2,3-d]pyridazine-4,7-dione
To a solution of diethyl 1-(2,4-dimethylphenyl)-1H-pyrrole-2,3-dicarboxylate (0.5 g, 1.59 mmol) in ethanol (5 ml) was added hydrazine monohydrate (0.38 ml, 7.93 mmol) and the mixture was heated under reflux for 14 hours. During the reaction, additional hydrazine monohydrate (0.2 ml×3) was added to the mixture. The solvent was removed in vacuo and the residue was treated with 2N hydrochloric acid at 80° C. for 20 min. After cooling, crystals were collected by filtration, washed with water and dried to give 0.36 g (89%) of the title compound.

reactant | diethyl 1-(2,4-dimethylphenyl)-1H-pyrrole-2,3-dicarboxylate | 1.59 mmol, 0.5 g | CC1=C(C=CC(=C1)C)N1C(=C(C=C1)C(=O)OCC)C(=O)OCC | C18H21NO4
reactant | hydrazine monohydrate | 7.93 mmol, 0.38 ml | O.NN
reactant | hydrazine monohydrate | 0.2 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(2,4-Dimethylphenyl)-5,6-dihydro-1H-pyrrolo[2,3-d]pyridazine-4,7-dione | 0.36 g, 89% | CC1=C(C=CC(=C1)C)N1C=CC2=C1C(NNC2=O)=O | C14H13N3O2
